US08202876B2
A mixture of (6-Chloro-pyrimidin-4-yl)-methyl-carbamic acid tert-butyl ester (10 g, 41.1 mmol), hydrazine monohydrate (6.5 g, 130.0 mmol), and 2-propanol (50 mL) is heated to 90° C. for 4 hours. The reaction mixture is then cooled to room temperature, and concentrated. The resultant crude product is treated with a mixture of water (80 mL) and ethanol (15 mL), heated for 30 minutes, and slowly cooled to room temperature. White precipitate forms. After filtration, the undissolved solid is washed with water, dried under vacuum overnight to give (6-Hydrazino-pyrimidin-4-yl)-methyl-carbamic acid tert-butyl ester as white powder in needle form: 1H NMR 400 MHz (d6-DMSO) δ 8.23 (s, 1H), 8.19 (s, 1H), 7.14 (s, 1H), 4.29 (s, 2H), 3.23 (s, 3H), 1.49 (s, 9H); MS m/z 240.10 (M+1).

reactant | (6-Chloro-pyrimidin-4-yl)-methyl-carbamic acid tert-butyl ester | 41.1 mmol, 10 g | C(C)(C)(C)OC(N(C)C1=NC=NC(=C1)Cl)=O | C10H14ClN3O2
reactant | hydrazine monohydrate | 130.0 mmol, 6.5 g | O.NN
solvent | 2-propanol | 50 mL | CC(C)O | C3H8O
product | (6-Hydrazino-pyrimidin-4-yl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=NC=NC(=C1)NN)=O | C10H17N5O2
